US09371320B2
A) 1-benzyl-4-(4-bromophenyl)piperidin-4-ol
To a solution of magnesium (1.77 g) and iodine (0.81 g) in THF (60 mL) was added a solution of 1,4-dibromobenzene (8.94 mL) in THF (5 mL), and the mixture was stirred at room temperature for 30 min. The reaction mixture was cooled to 0° C., a solution of 1-benzylpiperidin-4-one (13.2 mL) in THF (5 mL) was slowly added dropwise thereto, and the reaction mixture was stirred at room temperature for 2 hr. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (9.19 g).

reactant | magnesium | 1.77 g | [Mg] | Mg
reactant | iodine | 0.81 g | II | I2
reactant | 1,4-dibromobenzene | 8.94 mL | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | 1-benzylpiperidin-4-one | 13.2 mL | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-benzyl-4-(4-bromophenyl)piperidin-4-ol | 9.19 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=CC=C(C=C1)Br | C18H20BrNO
